US04801593
A mixture of 2-(2-chloroethyl)benzyl chloride (19 g), aniline (9.3 g), and triethylamine (22.22 g,) in chloroform (80 ml) was heated at reflux for 6 hrs. The reaction mixture was cooled and washed with 2M sodium hydroxide solution (3×100 ml). The chloroform layer was dried (magnesium sulphate) and evaporated in vacuo. The residue was distilled in vacuo to afford 2-phenyl-1,2,3,4-tetrahydroisoquinoline (6.2 g. b.pt. 112°-113°/0.08-0.1 mmHg) characterised by its nmr spectrum.

reactant | 2-(2-chloroethyl)benzyl chloride | 19 g | ClCCC1=C(CCl)C=CC=C1 | C9H10Cl2
reactant | aniline | 9.3 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 22.22 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-phenyl-1,2,3,4-tetrahydroisoquinoline | 6.2 g | C1(=CC=CC=C1)N1CC2=CC=CC=C2CC1 | C15H15N
